US07199147B2
Trifluoroacetic acid (0.2 ml) was added to a solution of N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-N-(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)-methanesulfonamide (19 mg, 0.0425 mmol) in dichloromethane (0.8 ml), and the resulting mixture was stirred at room temperature for 1.5 hours. The reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a preparative thin-layer chromatography (200×200×0.5 mm, eluent: chloroform/methanol=9/1) to obtain N-(1H-indazol-5-yl)-N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)methanesulfonamide (6 mg, 40%).

reactant | Trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-N-(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)-methanesulfonamide | 0.0425 mmol, 19 mg | C(CC)N1C2CC(CC1CC2)N(S(=O)(=O)C)C=2C=C1C=NN(C1=CC2)C2OCCCC2 | C23H34N4O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | N-(1H-indazol-5-yl)-N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)methanesulfonamide | 6 mg, 40% | N1N=CC2=CC(=CC=C12)N(S(=O)(=O)C)C1CC2CCC(C1)N2CCC | C18H26N4O2S
